US04022897
9-Hydroxy-2-methyl-4H-pyrido[ 1,2-a] pyrimidin-4-one
A mixture of 110.0 g of 2-amino-3-pyridinol and 130.0 g of methyl 2-aminocrotonate are heated at an internal temperature of 110°-115° for approximately 4 hours. The solid product is sublimed in vacuo to give about 140.0 g of product, m.p. 144°-145°.

reactant | 2-amino-3-pyridinol | 110.0 g | NC1=NC=CC=C1O | C5H6N2O
reactant | methyl 2-aminocrotonate | 130.0 g | N/C(/C(=O)OC)=C\C | C5H9NO2
product | 9-Hydroxy-2-methyl-4H-pyrido[ 1,2-a] pyrimidin-4-one | about 140.0 g | OC1=CC=CN2C1=NC(=CC2=O)C | C9H8N2O2
